US07939526B2
Under a nitrogen atmosphere 2-amino-1-methylpropan-1-ol (25.5 g, 0.28 mol) was added over a period of 30 minutes to a chilled (15° C.) solution of 4-chloro-3-nitro[1,5]naphthyridine (54.5 g, 0.26 mol) and triethylamine (39.5 g, 0.39 mol) in dichloromethane (1 L). The temperature of the reaction mixture was maintained below about 30° during the addition. After the addition was complete the reaction mixture was stirred at ambient temperature overnight. The resulting precipitate was isolated by filtration, slurried with water, and again isolated by filtration to provide 40.53 g of N-(2-hydroxy-2-methylpropyl)-3-nitro[1,5]naphthyridin-4-amine as a yellow solid.

reactant | 2-amino-1-methylpropan-1-ol | 0.28 mol, 25.5 g | NC(C(O)C)C | C4H11NO
reactant | 4-chloro-3-nitro[1,5]naphthyridine | 0.26 mol, 54.5 g | ClC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | triethylamine | 0.39 mol, 39.5 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | N-(2-hydroxy-2-methylpropyl)-3-nitro[1,5]naphthyridin-4-amine | 40.53 g | OC(CNC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-])(C)C | C12H14N4O3
